US05514691
N-(3-Phenyl-4-bromo-5-isoxazolyl)benzenesulfonamide
This compound was prepared from benzenesulfonyl chloride and 5-amino-4-bromo-3-phenylisoxazole according to the method in Example 1b in 36% yield. Recrystallization from methanol gave a yellow solid, m.p. 113°-115° C.

reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 5-amino-4-bromo-3-phenylisoxazole | NC1=C(C(=NO1)C1=CC=CC=C1)Br | C9H7BrN2O
product | N-(3-Phenyl-4-bromo-5-isoxazolyl)benzenesulfonamide | 36% yield | C1(=CC=CC=C1)C1=NOC(=C1Br)NS(=O)(=O)C1=CC=CC=C1 | C15H11BrN2O3S
